US09427475B2
Step A: N2-{8-(benzyloxy)-8-oxooctanoyl}-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine
To a solution of N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine (310 mg, 0.669 mmol) in DMF (20 mL) at 0° C. was added benzyl 8-[(2,5-dioxopyrrolidin-1-yl)oxy]-8-oxooctanoate (242 mg, 0.669 mmol), followed by the addition of DIPEA (0.117 ml, 0.669 mmol). The reaction was warmed to 25° C. and stirred at this temp for 18 hr. The reaction mixture was concentrated, and the residue was purified by flash chromatography on C18 reverse phase silica gel, eluting with 0-30% CAN in water, to give the title compound. UPLC Method B: m/e=710.423 [M+1]; Rt=4.59 min.

reactant | N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine | 0.669 mmol, 310 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CCCCC(=O)NCCCC[C@H](N)C(=O)O)=O | C20H37N3O9
reactant | benzyl 8-[(2,5-dioxopyrrolidin-1-yl)oxy]-8-oxooctanoate | 0.669 mmol, 242 mg | O=C1N(C(CC1)=O)OC(CCCCCCC(=O)OCC1=CC=CC=C1)=O | C19H23NO6
reactant | DIPEA | 0.669 mmol, 0.117 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N2-{8-(benzyloxy)-8-oxooctanoyl}-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine | C(C1=CC=CC=C1)OC(CCCCCCC(=O)N[C@@H](CCCCNC(CCCCC(=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)C(=O)O)=O | C35H55N3O12
